US05473098
DMF (100 mL) and methyl 4-formylbenzoate (13.9 g, 0.13 mole) are added to the product solution from step (3) at a temperature of 25° to 28° C. Sodium methoxide (7 g) is added to the solution while maintaining the temperature at 25° to 35° C. by means of a water bath. The reaction mixture is heated at 25° to 35° C. for an additional 4 hours and then water (100 mL) is slowly added at 25° to 35° C. (with water bath cooling as necessary) to precipitate the product. After stirring for 1 hour, the product, dimethyl 4,4'-stilbenedicarboxylate, is collected by filtration, washed with water until the filtrate has a pH of 5 to 7 and then washed with methanol (2×50 mL). After drying at 60° C. under vacuum, dimethyl 4,4'-stilbenedicarboxylate is obtained in a 65% yield based on the amount of methyl 4-(hydroxymethyl)benzoate employed.

reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
reactant | methyl 4-formylbenzoate | 0.13 mole, 13.9 g | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | Sodium methoxide | 7 g | C[O-].[Na+]
solvent | water | O | H2O
solvent | water | 100 mL | O | H2O
product | dimethyl 4,4'-stilbenedicarboxylate | 65% yield | C1(=CC=C(C=C1)C(=O)OC)C=CC1=CC=C(C=C1)C(=O)OC | C18H16O4
